US09415047B2
Preparation of 1-(4-(4-cyclohexyl piperazine-1-yl)butyl)-1H-benzotriazole (I-46)
1-(4-chlorobutyl)-1H-benzotriazole (7.55 g, 0.036 mol) was dissolved into 100 ml of acetonitrile, 4-(1-cyclohexyl)piperazine (5.1 g, 0.03 mol), diisopropylethylamine (15.5 g, 0.12 mol) and potassium iodide (5.0 g, 0.03 mol) were respectively added. The mixture was stirred and mixed, then heated and refluxed to react for 20 hours. The mixture was cooled down to ambient temperature and filtered. The filtrate was concentrated to produce oily products, and treated by chromatography with neutral Al2O3 and purified, eluted with dichloromethane to produce 6.5 g compound (I-46) with a yield of 63.7%. ESI-MS [M+H]+: m/z 341.2.

reactant | 1-(4-chlorobutyl)-1H-benzotriazole | 0.036 mol, 7.55 g | ClCCCCN1N=NC2=C1C=CC=C2 | C10H12ClN3
reactant | 4-(1-cyclohexyl)piperazine | 0.03 mol, 5.1 g | C1(CCCCC1)N1CCNCC1 | C10H20N2
reactant | diisopropylethylamine | 0.12 mol, 15.5 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | potassium iodide | 0.03 mol, 5.0 g | [I-].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-(4-(4-cyclohexyl piperazine-1-yl)butyl)-1H-benzotriazole | 6.5 g, yield of 63.7% | C1(CCCCC1)N1CCN(CC1)CCCCN1N=NC2=C1C=CC=C2 | C20H31N5
